### ISSUE TITLE
Simp fails to apply certain lemma due to premature default instance application

### ISSUE THREAD

**Issue by pcpthm** [leanprover/lean4#326]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`simp` generalizes class instance parameters used in the simp lemma to metavariables, but then a default instance of the class is synthesized there before it is tried to match the target expression.
Thus, the matching fails and the simp lemma cannot be applied.
I'm not sure why it works for one case below but not for the other case.

### Steps to Reproduce

I made a `Monoid` class:

```lean
abbrev Zero α := OfNat α (natLit! 0)

class Monoid (α : Type u) [Zero α] extends Add α where
  zero_add (a : α) : 0 + a = a
  add_zero (a : α) : a + 0 = a

attribute [simp] Monoid.zero_add Monoid.add_zero
```

Then, something strange happens. `simp` can use `zero_add` but not `add_zero` despite their similar types:

```lean
variable {α : Type u} [Zero α] [Monoid α]

-- works
example (a : α) : 0 + a = a := by simp

-- fails
example (a : α) : a + 0 = a := by simp
```

Here is the relevant part of the trace:

```lean
[Meta.isDefEq] 
  [Meta.isDefEq.step] @HAdd.hAdd ?m.967 ?m.967 ?m.967 (@instHAdd ?m.967 (@Monoid.toAdd ?m.967 ?m.968 ?m.969)) ?m.970
    (@OfNat.ofNat ?m.967 0
      ?m.968) =?= @HAdd.hAdd α α α (@instHAdd α (@Monoid.toAdd α inst✝¹ inst✝)) a (@OfNat.ofNat α 0 inst✝¹)
  [Meta.whnf] @HAdd.hAdd ?m.967 ?m.967 ?m.967 (@instHAdd ?m.967 (@Monoid.toAdd ?m.967 ?m.968 ?m.969)) ?m.970
      (@OfNat.ofNat ?m.967 0 ?m.968)
    [Meta.whnf] @HAdd.hAdd
    [Meta.whnf] @HAdd.hAdd α α α (@instHAdd α (@Monoid.toAdd α inst✝¹ inst✝)) a (@OfNat.ofNat α 0 inst✝¹)
    [Meta.whnf] @HAdd.hAdd
    [Meta.isDefEq.step] ?m.967 =?= Nat
    [Meta.isDefEq] ?m.967 [assignable] =?= Nat [nonassignable]
      [Meta.isDefEq.assign] 
        [Meta.isDefEq.assign] ?m.967 := Nat
        [Meta.isDefEq.assign.beforeMkLambda] ?m.967 [] := Nat
        [Meta.isDefEq.assign.checkTypes] 
          [Meta.isDefEq.step] Type ?u.966 =?= Type
          [Meta.isLevelDefEq.step] ?u.966 =?= 0
          [Meta.isDefEq.assign.final] ?m.967 := Nat
    [Meta.isDefEq.step] ?m.970 =?= a
    [Meta.isDefEq] ?m.970 [assignable] =?= a [nonassignable]
      [Meta.isDefEq.assign] 
        [Meta.isDefEq.assign] ?m.970 := a
        [Meta.isDefEq.assign.beforeMkLambda] ?m.970 [] := a
        [Meta.isDefEq.assign.checkTypes] 
          [Meta.isDefEq.step] Nat =?= α
          [Meta.whnf] Nat
            [Meta.isDefEq.step] Nat =?= α
            [Meta.whnf] Nat
              [Meta.isDefEq.hint] Nat =?= α
              [Meta.whnf] Nat
              [Meta.isDefEq.hint] α =?= Nat
          [Meta.isDefEq.assign.typeMismatch] ?m.970 : Nat := a : α
  [Meta.isDefEq] @HAdd.hAdd ?m.967 ?m.967 ?m.967 (@instHAdd ?m.967 (@Monoid.toAdd ?m.967 ?m.968 ?m.969)) ?m.970
    (@OfNat.ofNat ?m.967 0
      ?m.968) =?= @HAdd.hAdd α α α (@instHAdd α (@Monoid.toAdd α inst✝¹ inst✝)) a (@OfNat.ofNat α 0 inst✝¹) ... failure
[Meta.Tactic.simp.unify] Monoid.add_zero:1000, failed to unify @HAdd.hAdd ?m.967 ?m.967 ?m.967
  (@instHAdd ?m.967 (@Monoid.toAdd ?m.967 ?m.968 ?m.969)) ?m.970
  (@OfNat.ofNat ?m.967 0
    ?m.968) with @HAdd.hAdd α α α (@instHAdd α (@Monoid.toAdd α inst✝¹ inst✝)) a (@OfNat.ofNat α 0 inst✝¹)
```

Somehow `Nat` is assigned to a metavar out of thin air.
Perhaps it is from the `@[defaultInstance]` here: <https://github.com/leanprover/lean4/blob/5d4cb58f786ae9e7142e578e29fc9e4c9b651403/src/Init/Prelude.lean#L349-L351>

I tried to reduce the test case above, but I found several things are essentials to reproduce this issue:

- It works if `rw` is used:

```lean
-- works
example (a : α) : a + 0 = a := by rw [Monoid.add_zero]
```

- It works if `OfNat` is replaced with a class and number literal is not used:

```lean
class Zero (α : Type u) := zero : α

add_zero (a : α) : a + Zero.zero = a
```

- It works if `Add` is replaced with a custom class:

```lean
class Op (α : Type u) := op : α → α → α
```

- It works if I specify the type manually:

```lean
-- works
example (a : α) : a + 0 = a := by simp [Monoid.add_zero (α := α)]
```

**Expected behavior:** `Monoid.add_zero` is applied by `simp`.

**Actual behavior:** `simp` fails to use the lemma.

**Reproduces how often:** Always.

### Versions

`Lean (version 4.0.0, Release)` [current master](5d4cb58f786ae9e7142e578e29fc9e4c9b651403).

**Comment by pcpthm** [comment]
My result of investigation was completely wrong :|

**Comment by leodemoura** [comment]
> My result of investigation was completely wrong :|

It helped.
